data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CC(CC(C1(CCOCC1)SC2=CC=CC=C2)[OH:10])O>>[H:20][OH+:10]C(CC(C)O)C1(CCOCC1)SC2=CC=CC=C2.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][C:21](C[N+]12CCN(CC1)CC2)(C(C3=C(C=CC=C3)OC)[O-])[C:22](=[O:23])OCC.C1CN2CC[N:10]1CC2>>[H:20][N+:10]12CCN(CC1)CC2.CCO[C:22](=[C:21](C[N+]12CCN(CC1)CC2)C(C3=C(C=CC=C3)OC)[O-])[O-:23] 10=20;22,23=23;20,21=21,22
CC[O:21][CH:20](C)[O-:10]>>CC[O-:21].C[CH:20]=[O:10] 10=20;20,21=21
CC(=[O+:11][Si-:10](C)(C)(C)Cl)N>>CC(=[O:11])N.C[Si:10](C)(C)Cl 10,11=11
[H:20][NH+:21](C1=C(C=CC=C1)C=C)C([N+]2=CC=C(C=C2)N(C)C)([O-])OC(=O)OC(C)(C)C.CC(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)C.CC(C)(C)OC(=O)OC([NH:21]C1=C(C=CC=C1)C=C)([N+]2=CC=C(C=C2)N(C)C)[O-] 10=20;20,21=21
CO[CH:20]([OH2+:21])[OH:10].[Cl-]>>CO[CH:20]=[OH+:10].[OH2:21].[Cl-] 10=20;20,21=21
[H:20][OH:21].CC(C)(C)[Si](C)(C)OC(CC1(SCCCS1)CC(CC(CC2(SCCCS2)CC(COCC3=CC=CC=C3)O[Si](C)(C)C(C)(C)C)[O-:10])O)COCC4=CC=CC=C4.[Li+].CC(C)C.[OH-]>>[H:20][O:10]C(CC(CC1(SCCCS1)CC(COCC2=CC=CC=C2)O[Si](C)(C)C(C)(C)C)O)CC3(SCCCS3)CC(COCC4=CC=CC=C4)O[Si](C)(C)C(C)(C)C.[OH-:21].[Li+].CC(C)C.[OH-] 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH:20]2CCCC(C2OC(=[O:10])C)C3CCCCC3>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CC1=[O+:10][CH:20]2CCCC(C2O1)C3CCCCC3 10=20;20,21=21
[H:20][OH2+:21].CC(NCCC1=CC(=C(C=C1)O)O)[OH:10].O>>[H:20][OH+:10]C(C)NCCC1=CC(=C(C=C1)O)O.[OH2:21].O 10=20;20,21=21
CC(C)(C)OC(=[O:10])N(C)CCC1=C(C=C(C(=C1)OC)OC)I.[AlH3:20]>>CC(C)(C)OC(=[O+:10][AlH3-:20])N(C)CCC1=C(C=C(C(=C1)OC)OC)I 10=20,
CC[OH:10].CN[C:20](=[OH+:21])CC#N>>CC[OH+:10][C:20](CC#N)(NC)[OH:21] 10=20;20,21=21
[H:20][OH+:21]C(=N)C1=C2CCCC(C2=CC=C1)(C)C.OP(=O)(O)OP(=O)(O)[O-:10]>>[H:20][O:10]P(=O)(O)OP(=O)(O)O.CC1(CCCC2=C(C=CC=C21)C(=N)[OH:21])C 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCN(CC)C(C)[OH:10]>>[H:20][OH+:10]C(C)N(CC)CC.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O+:21]=CC(C)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(C=[O:21])O 10=20;20,21=21
[H:20][OH2+:21].CC(=CC[OH:10])C.CCCCCC1=CC(=C(C(=C1)O)CC=C(C)C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH+:10]CC=C(C)C.[OH2:21].CCCCCC1=CC(=C(C(=C1)O)CC=C(C)C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CN1)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C=CN1 10=20;20,21=21,22
[H:20][C:21]1([C:22](=[O:23])CCC2(C1(CCCC2)O)C)C.CC[O-:10]>>[H:20][O:10]CC.C[C:21]1=[C:22](CCC2(C1(CCCC2)O)C)[O-:23] 10=20;22,23=23;20,21=21,22
C(C[OH:10])CO[C:20](=[OH+:21])O>>C1C[OH+:10][C:20](OC1)(O)[OH:21] 10=20;20,21=21
C[C:20](=[O:21])C1=C(C=CC2=C1C=CC=C2)O.C1=CC=C(C=C1)C2=C(N=C3C(=C2)C=CC=N3)N[NH2:10].CC(=O)O>>C[C:20](C1=C(C=CC2=C1C=CC=C2)O)([NH2+:10]NC3=C(C=C4C=CC=NC4=N3)C5=CC=CC=C5)[O-:21].CC(=O)O 10=20;20,21=21
[H:20][CH2:21][S+](C)OCC.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.CCO[S+](C)[CH2-:21] 10=20;20,21=21
CC[OH:10].C[C:20](=[OH+:21])C>>CC[OH+:10][C:20](C)(C)[OH:21] 10=20;20,21=21
CCC[NH2:10].C1=CC=C(C=C1)C(=O)[CH2:20][Cl:21]>>CCC[NH2+:10][CH2:20]C(=O)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21
CC(C)O[Al:20](OC(C)C)OC(C)C.CC1(OC2CC3C(C(=O)CC4(C3(CC2O1)C)OCCO4)[OH:10])C.CC(C)O>>CC(C)O[Al-:20]([OH+:10]C1C2CC3C(CC2(C4(CC1=O)OCCO4)C)OC(O3)(C)C)(OC(C)C)OC(C)C.CC(C)O 10=20,
[H:20][O:21]C(=O)C.CC(=O)CC(C)([NH2+]C1=C2C(=CC=C1)NC=N2)[O-:10]>>[H:20][O:10]C(C)(CC(=O)C)[NH2+]C1=C2C(=CC=C1)NC=N2.CC(=O)[O-:21] 10=20;20,21=21
C[C:11](C)(C)[O:10][C:20](=[OH+:21])NC(CCSC)C(=O)NCC1=CC=CC=C1.C(=O)(C(F)(F)F)[O-].[Cl-]>>C[C+:11](C)C.CSCCC(C(=O)NCC1=CC=CC=C1)N[C:20](=[O:10])[OH:21].C(=O)(C(F)(F)F)[O-].[Cl-] 10,11=10,20;20,21=21
CC[OH:10].CC(=O)CCCCCC[CH:20]=[OH+:21]>>CC[OH+:10][CH:20](CCCCCCC(=O)C)[OH:21] 10=20;20,21=21
C[C:20](=[OH+:21])OC.C[NH2:10].[Cl-]>>C[C:20]([NH2+:10]C)([OH:21])OC.[Cl-] 10=20;20,21=21
[H:20][C:21]12C(=NCCC1=CC=C[C:22]2=[O+:23]C)C.[Cl-:10].OP(=O)(Cl)Cl>>[H:20][Cl:10].CC1=NCCC2=CC=C[C:22](=[C:21]12)[O:23]C.OP(=O)(Cl)Cl 10=20;22,23=23;20,21=21,22
[B:20](CCCC)(CCCC)OS(=O)(=O)C(F)(F)F.CC(C)C(CC(=[O:10])C)OCC1=CC=C(C=C1)OC.CCN(C(C)C)C(C)C>>[B-:20](CCCC)(CCCC)(OS(=O)(=O)C(F)(F)F)[O+:10]=C(C)CC(C(C)C)OCC1=CC=C(C=C1)OC.CCN(C(C)C)C(C)C 10=20,
CC(C(=O)NC(CCO)C(=O)[O-])[NH2:10].C1CC(=O)N(C1=O)O[C:20](=[O:21])OCC2C3=C(C=CC=C3)C4=C2C=CC=C4>>CC(C(=O)NC(CCO)C(=O)[O-])[NH2+:10][C:20]([O-:21])(OCC1C2=C(C=CC=C2)C3=C1C=CC=C3)ON4C(=O)CCC4=O 10=20;20,21=21
CC(=O)[CH:21]=[CH2:20].C[S-:10].CO>>CC(=O)[CH-:21][CH2:20][S:10]C.CO 10=20;20,21=21
CC(C)[O:10][Si](C)(C)C.C[Si](C)(C)[O+:21]=[CH:20]CCC1=CC=CC=C1.C[Si](C)(C)CC=C.C(F)(F)(F)S(=O)(=O)[O-]>>CC(C)[O+:10]([CH:20](CCC1=CC=CC=C1)[O:21][Si](C)(C)C)[Si](C)(C)C.C[Si](C)(C)CC=C.C(F)(F)(F)S(=O)(=O)[O-] 10=20;20,21=21
C[P:10](=[S:11])(C)C>>C[P+:10](C)(C)[S-:11] 10,11=11
CC(=CC[C:20](=[OH+:21])C1=CC=CC=C1)[OH:10].O.OS(=O)(=O)[O-]>>CC1=CC[C:20]([OH+:10]1)(C2=CC=CC=C2)[OH:21].O.OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][Br:21].C[C:11]1=[CH:10]CCCCC1(C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][CH:10]1CCCCC([C+:11]1C)(C2=CC=CC=C2)C3=CC=CC=C3.[Br-:21] 10,11=10,20;20,21=21
[H:20][C:21]1(CCCCC1=O)[CH:22]=[O:23].CC[O-:10]>>[H:20][O:10]CC.C1CCC(=O)[C:21](=[CH:22][O-:23])C1 10=20;22,23=23;20,21=21,22
